US08859541B2
2-(methylamino)-N-[6-(2-phenylethynyl)-5-pyrimidin-5-yl-4-(trifluoromethyl)pyridin-2-yl]propanamide
Under stirring at 0° C. 2-bromopropanoyl bromide (44 μl, 0.42 mmol) is added dropwise to a mixture of 6-(2-phenylethynyl)-5-pyrimidin-5-yl-4-(trifluoromethyl)pyridin-2-amine C3d (95 mg, 0.28 mmol), triethylamine (59 μl, 0.42 mmol), DMAP (0.3 mg, 3 μmol) and dioxane (1.4 ml). The mixture is warmed to RT and stirred for 1 h. Methylamine (solution in THF 2 mol/l, 1.4 ml, 2.8 mmol) is added and stirring continued for 6 h. The mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 45 mg (38%). HPLC-MS: M+H=426; tR=1.27 min (*Method—1).

reactant | 2-bromopropanoyl bromide | 0.42 mmol, 44 μl | BrC(C(=O)Br)C | C3H4Br2O
reactant | 6-(2-phenylethynyl)-5-pyrimidin-5-yl-4-(trifluoromethyl)pyridin-2-amine | C1(=CC=CC=C1)C#CC1=C(C(=CC(=N1)N)C(F)(F)F)C=1C=NC=NC1 | C18H11F3N4
reactant | triethylamine | 0.42 mmol, 59 μl | C(C)N(CC)CC | C6H15N
reactant | Methylamine | 2.8 mmol, 2 mol/l, 1.4 ml | CN | CH5N
catalyst | DMAP | 3 μmol, 0.3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dioxane | 1.4 ml | O1CCOCC1 | C4H8O2
product | 2-(methylamino)-N-[6-(2-phenylethynyl)-5-pyrimidin-5-yl-4-(trifluoromethyl)pyridin-2-yl]propanamide | CNC(C(=O)NC1=NC(=C(C(=C1)C(F)(F)F)C=1C=NC=NC1)C#CC1=CC=CC=C1)C | C22H18F3N5O
